US04209521
1-[1-(Indol-3-ylmethyl)piperid-4-yl]-3-benzoylthiourea
Benzoyl chloride (0.49 g, 3.5 mmol) was added to a solution of ammonium thiocyanate (0.29 g, 3.82 mmol) in dry acetone (4 cm3). The reaction mixture was heated under reflux for 10 minutes, then 4-amino-1-(indol-3-ylmethyl)piperidine (0.78 g, 3.41 mmol) was added. The suspension was stirred at room temperature for 1 hour then heated under reflux for 15 minutes and poured into water (20 cm3), precipitating an oil. The supernatant aqueous phase was decanted and the oil triturated with propan-2-ol under reflux to give the title compound as the hydrocyanate salt (0.18 g, 11.7%), m.p. 183°-185° C.

reactant | Benzoyl chloride | 3.5 mmol, 0.49 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium thiocyanate | 3.82 mmol, 0.29 g | [S-]C#N.[NH4+]
reactant | 4-amino-1-(indol-3-ylmethyl)piperidine | 3.41 mmol, 0.78 g | NC1CCN(CC1)CC1=CNC2=CC=CC=C12 | C14H19N3
reactant | water | 20 cm3 | O | H2O
solvent | acetone | 4 cm3 | CC(=O)C | C3H6O
product | 1-[1-(Indol-3-ylmethyl)piperid-4-yl]-3-benzoylthiourea | N1C=C(C2=CC=CC=C12)CN1CCC(CC1)NC(=S)NC(C1=CC=CC=C1)=O | C22H24N4OS
